US05952362
Imidazolidin-2-ylidene-(1-methanesulfonyl-3-methyl-1H-indol-6-yl)-amine hydrochloride (mp 236.4-236.7° C.) was prepared from 1-methanesulfonyl-3-methyl-6-amino-1H-indole by a procedure which was similar to that for the preparation of N-methanesulfonyl-6-(imidazolidin-2-ylideneamino)indole hydrochloride.

reactant | 1-methanesulfonyl-3-methyl-6-amino-1H-indole | CS(=O)(=O)N1C=C(C2=CC=C(C=C12)N)C | C10H12N2O2S
reactant | N-methanesulfonyl-6-(imidazolidin-2-ylideneamino)indole hydrochloride | Cl.CS(=O)(=O)N1C=CC2=CC=C(C=C12)N=C1NCCN1
product | Imidazolidin-2-ylidene-(1-methanesulfonyl-3-methyl-1H-indol-6-yl)-amine hydrochloride | Cl.N1C(NCC1)=NC1=CC=C2C(=CN(C2=C1)S(=O)(=O)C)C | InChI=1S/C13H16N4O2S.ClH/c1-9-8-17(20(2,18)19)12-7-10(3-4-11(9)12)16-13-14-5-6-15-13;/h3-4,7-8H,5-6H2,1-2H3,(H2,14,15,16);1H
